US07452905B2
Process 4 Synthesis of (2S)-2-(2-chloro-6-methyl-benzoylamino)-3-[4-(4-methyl-1,3-dioxo-1,3-dihydroisoindole-2-yl)phenyl] Propionic Acid Ethylester
The mixture of 88.2 mg of 2-chloro-6-methyl benzoic acid, 99.1 mg of 1-(3-dimehtylaminopropyl)-3-ethylcarbodiimide hydrochloride, 79.1 mg of 1-hydroxybenzotriazol hydrate, 107 μl of triethylamine, 100 mg of (2S)-2-amino-3-[4-(4-methyl-1,3-dioxo-1,3-dihydroisoindole-2-yl)phenyl] propionic acid ethylester hydrochloride and 1 ml of dichloromethane was stirred at 45° C. overnight. The mixture was purified by silica gel chromatography to obtain the title compound.

reactant | 2-chloro-6-methyl benzoic acid | 88.2 mg | ClC1=C(C(=O)O)C(=CC=C1)C | C8H7ClO2
reactant | 1-(3-dimehtylaminopropyl)-3-ethylcarbodiimide hydrochloride | 99.1 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazol hydrate | 79.1 mg | O.ON1N=NC2=C1C=CC=C2
reactant | (2S)-2-amino-3-[4-(4-methyl-1,3-dioxo-1,3-dihydroisoindole-2-yl)phenyl] propionic acid ethylester hydrochloride | 100 mg | Cl.C(C)OC([C@H](CC1=CC=C(C=C1)N1C(C2=CC=CC(=C2C1=O)C)=O)N)=O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | triethylamine | 107 μl | C(C)N(CC)CC | C6H15N
product | (2S)-2-(2-chloro-6-methyl-benzoylamino)-3-[4-(4-methyl-1,3-dioxo-1,3-dihydroisoindole-2-yl)phenyl] Propionic Acid Ethylester | C(C)OC([C@H](CC1=CC=C(C=C1)N1C(C2=CC=CC(=C2C1=O)C)=O)NC(C1=C(C=CC=C1C)Cl)=O)=O | C28H25ClN2O5
